US03969463
5-Chloro-6-methylquinaldine was reduced with platinum on carbon to give 5-chloro-2,6-dimethyltetrahydroquinoline.

reactant | 5-Chloro-6-methylquinaldine | ClC1=C2C=CC(=NC2=CC=C1C)C | C11H10ClN
catalyst | platinum on carbon | [Pt] | Pt
product | 5-chloro-2,6-dimethyltetrahydroquinoline | ClC1=C2CCC(NC2=CC=C1C)C | C11H14ClN
